US08877922B2
2-(1H-imidazol-1-yl)isonicotinic acid
To a solution of 2-bromoisonicotinic acid (1.87 g, 9.26 mmol), 1H-imidazole (573 mg, 8.42 mmol) and Cs2CO3 (6.03 g, 18.5 mmol) in DMSO (18.6 mL), was added CuI (176 mg, 0.926 mmol). The mixture was heated to 125° C., stirred for 18 hours, cooled to room temperature, filtered and purified by preparative HPLC (10-90% acetonitrile in water) to give the title compound as a light pink solid (1.72 g, 98%). MS 190 (MH+).

reactant | 2-bromoisonicotinic acid | 9.26 mmol, 1.87 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | 1H-imidazole | 8.42 mmol, 573 mg | N1C=NC=C1 | C3H4N2
reactant | Cs2CO3 | 18.5 mmol, 6.03 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 18.6 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.926 mmol, 176 mg | [Cu]I
product | 2-(1H-imidazol-1-yl)isonicotinic acid | 1.72 g, 98% | N1(C=NC=C1)C=1C=C(C(=O)O)C=CN1 | C9H7N3O2
